Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest discomfort

 
Major Surgical or Invasive Procedure:
Coronary artery bypass grafting times three (LIMA to LDA, SVG to 
Diag1 and Diag2) ___

 
History of Present Illness:
Mr. ___ is a ___ year old male who presented to outside 
hospital in late ___ with chest discomfort following vigorous 
exercise. His chest discomfort was associated with nausea, 
fatigue and malaise. He took an Aspirin and sought medical 
attention. He ruled in for NSTEMI and subsequently underwent 
cardiac catheterization which revealed severe single vessel 
coronary artery disease which was not amenable to percutaneous 
intervention. Since that time, he has remained pain free on 
medical therapy. He presents today to discuss surgical 
revascularization.

 
Past Medical History:
- coronary artery disease, recent NSTEMI
- dyslipidemia
- congenital chest wall deformity
- basal cell carcinoma
- cataracts
- s/p Mohs surgery
- s/p bilateral foot surgery
 
Social History:
___
Family History:
- brother had MI's at age ___ and ___
 
Physical Exam:
Vital Signs sheet entries for ___:
BP: 114/73. Heart Rate: 58. Resp. Rate: 12. O2 Saturation%: 100.
Height: 74 inches    Weight: 74.80 kg

General: WDWN male in no acute distress. Chest wall deformity,
sternum appears to be pulled left ?excavatum.  Shoulders are
uneven, left shoulder and scapula raised. Left shoulder with
limited ROM.
Skin: Warm [x] Dry [x] intact [x]
HEENT: NCAT [x] PERRL [x] EOMI [x]
Neck:  Supple [x] Full ROM [x] JVD []
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur - none
Abdomen: Soft [x] non-distended [x] non-tender [x]  bowel sounds
+ [x]
Extremities: Warm [x], well-perfused [x]  
Edema: None
Varicosities: None
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: 2  Left: 2
DP           Right: 2  Left: 2
___           Right: 2  Left: 2
Radial       Right: 2  Left: 2
Carotid Bruit        Right: none   Left: none
 
Pertinent Results:
___ ECHOCARDIOGRAPHY REPORT

___       ___ MRN:   ___       TEE 
(Complete) Done ___ at 3:30:39 ___      FINAL  
Referring Physician     ___  
___, Division of Cardiothorac
___  Status: Inpatient DOB: ___ 
Age (years): ___ M  Hgt (in):  
BP (mm Hg): /  Wgt (lb):  
HR (bpm):  BSA (m2):  
Indication: Coronary artery disease. Left ventricular function. 
Preoperative assessment.  
ICD-9 Codes: 424.1, 424.0 
Test Information  
Date/Time: ___ at 15:30    ___ MD: ___, MD 

Test Type: TEE (Complete) Sonographer: ___, MD 
Doppler: Full Doppler and color Doppler Test Location: 
Anesthesia West OR cardiac 
Contrast: None Tech Quality: Adequate 
Tape #: ___-: Machine:  
Echocardiographic Measurements  
Results  Measurements  Normal Range  
Left Ventricle - Septal Wall Thickness:  *1.2 cm  0.6 - 1.1 cm  
Left Ventricle - Inferolateral Thickness:  *1.2 cm  0.6 - 1.1 cm 
 
Left Ventricle - Ejection Fraction:  >= 55%  >= 55%  
 
Findings  
RIGHT ATRIUM/INTERATRIAL SEPTUM: No ASD by 2D or color Doppler. 

LEFT VENTRICLE: Mild symmetric LVH. Normal LV cavity size. 
Normal regional LV systolic function. Overall normal LVEF 
(>55%). 

RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 

AORTA: Normal ascending aorta diameter. Normal descending aorta 
diameter. Focal calcifications in descending aorta. 

AORTIC VALVE: Mildly thickened aortic valve leaflets (3). Trace 
AR. 

MITRAL VALVE: Mildly thickened mitral valve leaflets. Mild (1+) 
MR. 

___ VALVE: Normal tricuspid valve leaflets with trivial 
TR. 

GENERAL COMMENTS: Written informed consent was obtained from the 
___. The ___ was under general anesthesia throughout the 
procedure. No TEE related complications.  

REGIONAL LEFT VENTRICULAR WALL MOTION:  

 
     N = Normal, H = Hypokinetic, A = Akinetic, D = Dyskinetic  
Conclusions  
PREBYPASS 
No atrial septal defect is seen by 2D or color Doppler. There is 
mild symmetric left ventricular hypertrophy. The left 
ventricular cavity size is normal. Regional left ventricular 
wall motion is normal. Overall left ventricular systolic 
function is normal (LVEF>55%). Right ventricular chamber size 
and free wall motion are normal. The aortic valve leaflets (3) 
are mildly thickened. Trace aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. Mild (1+) mitral 
regurgitation is seen. 

POSTBYPASS
There is preserved biventricular systolic function. MR remains 
mild. The study is otherwise unchanged from prebypass   
   I certify that I was present for this procedure in compliance 
with ___ regulations.
 

___ 06:55AM BLOOD WBC-6.8 RBC-3.35* Hgb-10.6* Hct-33.0* 
MCV-99* MCH-31.5 MCHC-32.0 RDW-12.7 Plt ___
___ 06:55AM BLOOD Glucose-109* UreaN-22* Creat-0.8 Na-140 
K-4.7 Cl-101 HCO3-28 AnGap-16

___ ___ M  ___  ___ 
 
Radiology Report CHEST (PA & LAT) Study Date of ___ 2:39 
___ 
 
  
___ FA6A ___ 2:39 ___ 
CHEST (PA & LAT)   Clip # ___   
Reason: eval for pneumothorax s/p chest tube removal  
 
Final Report 
INDICATION:  ___ year old man s/p CABG  // eval for pneumothorax 
s/p chest tube removal 
  
TECHNIQUE:  Chest PA and lateral 
  
COMPARISON:  ___ 
  
FINDINGS:  
  
Previously noted bilateral chest tubes, and right IJ line have 
been removed. 
Sternotomy wires are unchanged in configuration. Left chest wall 
deformity is again noted. Heart size is top-normal.  The lungs 
are clear.  Small bilateral pleural effusions.  No pneumothorax. 

  
IMPRESSION:  
  
1. Interval removal of bilateral chest tubes and central venous 
line. No 
pneumothorax. 
2. Small bilateral pleural effusions. 
  
The study and the report were reviewed by the staff radiologist. 

  
___. ___ 
 

LABS:

___ 06:55AM BLOOD WBC-6.8 RBC-3.35* Hgb-10.6* Hct-33.0* 
MCV-99* MCH-31.5 MCHC-32.0 RDW-12.7 Plt ___
___ 04:46AM BLOOD WBC-6.9 RBC-3.15* Hgb-10.0* Hct-31.4* 
MCV-100* MCH-31.6 MCHC-31.7 RDW-13.3 Plt ___
___ 05:00PM BLOOD ___ PTT-31.2 ___
___ 06:55AM BLOOD Glucose-109* UreaN-22* Creat-0.8 Na-140 
K-4.7 Cl-101 HCO3-28 AnGap-16
___ 04:46AM BLOOD Glucose-118* UreaN-21* Creat-0.8 Na-141 
K-4.5 Cl-106 HCO3-32 AnGap-8
 
Brief Hospital Course:
The ___ was admitted to the hospital and brought to the 
operating room on ___ where he underwent CABGx3 (LIMA-LAD, 
SVG-Diag1/Diag2), please see OR note for further details.  
Overall the ___ tolerated the procedure well and 
post-operatively was transferred to the CVICU in stable 
condition for recovery and invasive monitoring.  POD 1 found the 
___ extubated, alert and oriented and breathing comfortably. 
 The ___ was neurologically intact and hemodynamically 
stable on no inotropic or vasopressor support.  The ___ was 
transferred to the telemetry floor for further recovery. Beta 
blocker was initiated and the ___ was gently diuresed toward 
the preoperative weight. Chest tubes remined in due to peristent 
airleak and left pneumothorax they were eventually discontinued 
on POD#3. Pacing wires were discontinued without complication.  
The ___ was evaluated by the physical therapy service for 
assistance with strength and mobility.  By the time of discharge 
on POD 4, the ___ was ambulating freely, the wound was 
healing and pain was controlled with oral analgesics.  The 
___ was discharged to home with ___ services in good 
condition with appropriate follow up instructions.
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Atorvastatin 40 mg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 

 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
2. Atorvastatin 40 mg PO DAILY 
3. Acetaminophen 650 mg PO Q4H:PRN pain, fever 
4. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0
5. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ capsule(s) by mouth every four (4) hours 
Disp #*45 Capsule Refills:*0
6. Furosemide 20 mg PO DAILY Duration: 5 Days 
RX *furosemide 20 mg 1 tablet(s) by mouth Daily Disp #*5 Tablet 
Refills:*0
7. Potassium Chloride 20 mEq PO DAILY Duration: 5 Days 
RX *potassium chloride [K-Tab] 20 mEq 1 tablet(s) by mouth Daily 
Disp #*5 Tablet Refills:*0
8. Metoprolol Succinate XL 25 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
coronary artery disease

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
Extremities - LLE EVH site healing
Edema - none

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming, and look at your incisions
Please NO lotions, cream, powder, or ointments to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___